US05614544
(E,E)-3-[4-[2-(5-Methyl-2-phenyl-4-oxazolyl)vinyl]phenyl]-2propenol was oxidized with activated manganese dioxide in the same manner as in Reference Example 25 to yield (E)-4-[2-(5-methyl-2-phenyl-4-oxazolyl)vinyl]cinnamaldehyde, which was then recrystallized from ethyl acetate to yield light yellow prisms having a melting point of 191°-192° C.

reactant | (E,E)-3-[4-[2-(5-Methyl-2-phenyl-4-oxazolyl)vinyl]phenyl]-2propenol | CC1=C(N=C(O1)C1=CC=CC=C1)/C=C/C1=CC=C(C=C1)/C=C/CO | C21H19NO2
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | (E)-4-[2-(5-methyl-2-phenyl-4-oxazolyl)vinyl]cinnamaldehyde | CC1=C(N=C(O1)C1=CC=CC=C1)C=CC1=CC=C(/C=C/C=O)C=C1 | C21H17NO2
